US06794109B2
Preparation of 1-(2,2,2-Trifluoro-1-trifluoromethylethyl)-4-vinylbenzene
The title compound was prepared by a modification of the procedure of Klabunde and Burton, described in Journal of American Chemical Society (1972, 94, 820), herein incorporated by reference. To a solution of 2,2,2-trifluoro-1-(4-vinylphenyl)ethanone (8.27 g, 41.32 mmol) in diglyme (80 mL) was added PPh3 (21.67 g, 82.62 mmol) plus a few crystals of 3,5-di-tert-butylcatechol. The reaction mixture was heated in an oil bath to 150° C., then a solution of ClCF2CO2Na (12.60 g, 82.64 mmol) in diglyme (40 mL) was added in portions over 1 h. The reaction mixture was kept at 150° C. for 1 h, allowed to cool to 95° C., then KF (5.28 g, 90.88 mmol) in H2O (1.65 mL, 91.56 mmol) was added in one portion. The reaction mixture was kept at 95° C. overnight, allowed to cool to room temperature, diluted with H2O, and extracted with hexane. The combined extracts were washed with brine, dried (Na2SO4), and concentrated to provide 24.75 g of a reddish oil. This material was purified by filtration chromatography on silica gel using hexane to provide 5.56 g of a pale yellow oil, followed by vacuum distillation to provide 4.62 g (44%) of a colorless oil: bp 43-4° C. (1.3 mm); 1H NMR (CDCl3) δ 7.42 (d, 2ArH), 7.34 (d, 2ArH), 6.68 (dd, CH═), 5.77 (dd, ═CHH), 5.30 (dd, ═CHH), 4.00 (septet, CH).

reactant | 2,2,2-trifluoro-1-(4-vinylphenyl)ethanone | 41.32 mmol, 8.27 g | FC(C(=O)C1=CC=C(C=C1)C=C)(F)F | C10H7F3O
reactant | PPh3 | 82.62 mmol, 21.67 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 3,5-di-tert-butylcatechol | C(C)(C)(C)C1=C(C(O)=CC(=C1)C(C)(C)C)O | C14H22O2
reactant | ClCF2CO2Na | 82.64 mmol, 12.60 g | ClC(F)(F)C(=O)O[Na]
reactant | KF | 90.88 mmol, 5.28 g | [F-].[K+]
solvent | diglyme | 80 mL | COCCOCCOC | C6H14O3
solvent | diglyme | 40 mL | COCCOCCOC | C6H14O3
solvent | H2O | O | H2O
solvent | H2O | 91.56 mmol, 1.65 mL | O | H2O
product | 1-(2,2,2-Trifluoro-1-trifluoromethylethyl)-4-vinylbenzene | FC(C(C(F)(F)F)C1=CC=C(C=C1)C=C)(F)F | C11H8F6
